.title KiCad schematic
MX_ESC1 COL1 NC_01 MX-NoLED
MX_CUST2 COL0 NC_02 MX-NoLED
MX_SYMB1 COL13 NC_03 MX-NoLED
MX_RIGHTSPC1 COL11 NC_04 MX-NoLED
MX_ENTER1 COL14 NC_05 MX-NoLED
MX_RSHIFT1 COL13 NC_06 MX-NoLED
MX_Z1 COL3 NC_07 MX-NoLED
MX_6 COL6 NC_08 MX-NoLED
MX_5 COL5 NC_09 MX-NoLED
MX_4 COL4 NC_10 MX-NoLED
MX_3 COL3 NC_11 MX-NoLED
MX_2 COL2 NC_12 MX-NoLED
MX_1 COL1 NC_13 MX-NoLED
MX_T1 COL6 NC_14 MX-NoLED
MX_R1 COL5 NC_15 MX-NoLED
MX_E1 COL4 NC_16 MX-NoLED
MX_W1 COL3 NC_17 MX-NoLED
MX_Q1 COL2 NC_18 MX-NoLED
MX_TAB1 COL1 NC_19 MX-NoLED
MX_G1 COL6 NC_20 MX-NoLED
MX_F1 COL5 NC_21 MX-NoLED
MX_D1 COL4 NC_22 MX-NoLED
MX_S1 COL3 NC_23 MX-NoLED
MX_A1 COL2 NC_24 MX-NoLED
MX_CAPSL1 COL1 NC_25 MX-NoLED
MX_CUST3 COL0 NC_26 MX-NoLED
MX_B1 COL7 NC_27 MX-NoLED
MX_V1 COL6 NC_28 MX-NoLED
MX_C1 COL5 NC_29 MX-NoLED
MX_X1 COL4 NC_30 MX-NoLED
MX_LSHIFT1 COL1 NC_31 MX-NoLED
MX_CUST4 COL0 NC_32 MX-NoLED
MX_LEFTSPC1 COL2 NC_33 MX-NoLED
MX_CUST5 COL0 NC_34 MX-NoLED
MX_DEL1 COL14 NC_35 MX-NoLED
MX_PLUS1 COL12 NC_36 MX-NoLED
MX_MINUS1 COL11 NC_37 MX-NoLED
MX_0 COL10 NC_38 MX-NoLED
MX_9 COL9 NC_39 MX-NoLED
MX_8 COL8 NC_40 MX-NoLED
MX_7 COL7 NC_41 MX-NoLED
MX_BKSPC1 COL14 NC_42 MX-NoLED
MX_RBRAC1 COL13 NC_43 MX-NoLED
MX_LBRAC1 COL12 NC_44 MX-NoLED
MX_P1 COL11 NC_45 MX-NoLED
MX_O1 COL10 NC_46 MX-NoLED
MX_I1 COL9 NC_47 MX-NoLED
MX_U1 COL8 NC_48 MX-NoLED
MX_Y1 COL7 NC_49 MX-NoLED
MX_QUOTE1 COL12 NC_50 MX-NoLED
MX_COLON1 COL11 NC_51 MX-NoLED
MX_L1 COL10 NC_52 MX-NoLED
MX_K1 COL9 NC_53 MX-NoLED
MX_J1 COL8 NC_54 MX-NoLED
MX_H1 COL7 NC_55 MX-NoLED
MX_SLSH1 COL12 NC_56 MX-NoLED
MX_PERIOD1 COL11 NC_57 MX-NoLED
MX_COMMA1 COL10 NC_58 MX-NoLED
MX_M1 COL9 NC_59 MX-NoLED
MX_N1 COL8 NC_60 MX-NoLED
MX_SPC1 COL7 NC_61 MX-NoLED
MX_CUST1 COL0 NC_62 MX-NoLED
.end
